US04200466
(1) Preparation of 2-octadecylsuccinimido-5-nitro-phenol
In 3 liters of ethyl acetate and 50 ml of concentrated sulfuric acid were dissolved by heating 150 g of 2-amino-5-nitro-phenol and 350 g of octadecylsuccinate and the resulting solution was boiled under reflux for further 30 hours. Thereafter, the solution was cooled up to room temperature and washed twice with 2 liters of 10% hydrochloric acid and twice with 10% sodium carbonate solution. Then, ethyl acetated was distilled off and the residue was recrystallized from hexane to afford light yellow powdery crystal melting at 115°-120° C. in the yield of 153 g.

reactant | 2-amino-5-nitro-phenol | 150 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | octadecylsuccinate | 350 g | C(CCCCCCCCCCCCCCCCC)C(C(=O)[O-])CC(=O)[O-]
solvent | ethyl acetate | 3 liters | C(C)(=O)OCC | C4H8O2
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 2-octadecylsuccinimido-5-nitro-phenol | C(CCCCCCCCCCCCCCCCC)C1C(=O)N(C(C1)=O)C1=C(C=C(C=C1)[N+](=O)[O-])O | C28H44N2O5
